US07951810B2
Step e: (2R,3S,4R,5R)-2-{6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydrofuran-3,4-diyl diacetate
(2R,3S,4R,5R)-2-{6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}-5-{[(triisopropylsilyl)oxy]methyl}tetrahydrofuran-3,4-diyl diacetate (0.305 g, 0.49 mmol) was stirred in pyridine (2 mL) and tetrahydrofuran (2 mL). Hydrofluoric acid in pyridine (2.0 M) was added (15 drops) and the reaction was stirred at room temperature for thirty minutes. The reaction was quenched using saturated sodium bicarbonate then extracted using ethyl acetate (3×10 mL). The organic layer was dried (Na2SO4), filtered and concentrated. The brown residue was purified by column chromatography (30-50% ethyl acetate/hexanes followed by ethyl acetate) to give the title compound as a white solid (0.188 g, 82%).

reactant | (2R,3S,4R,5R)-2-{6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}-5-{[(triisopropylsilyl)oxy]methyl}tetrahydrofuran-3,4-diyl diacetate | 0.49 mmol, 0.305 g | C(C)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)CO[Si](C(C)C)(C(C)C)C(C)C)N1C2=NC=NC(=C2N=C1)N[C@H]1CCC2=CC=CC=C12 | C32H45N5O6Si
reactant | Hydrofluoric acid | F | FH
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | pyridine | 2.0 M | N1=CC=CC=C1 | C5H5N
product | (2R,3S,4R,5R)-2-{6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydrofuran-3,4-diyl diacetate | 0.188 g, 82% | C(C)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)CO)N1C2=NC=NC(=C2N=C1)N[C@H]1CCC2=CC=CC=C12 | C23H25N5O6
